US05686480
3-(4-Isoquinolin-3-yl-piperazin-1-ylmethyl)-4,5-dihydro-1H-benzo[g]indazole
A solution of (4,5-dihydro-1H-benzo[g]indazol-3-ylmethyl)-trimethylammonium iodide (0.40 g), 4-isoquinolin-3-yl-piperazine dihydrochloride (0.31 g) and diisopropylethylamine (1.0 cm3) in DMF (5 cm3) was heated under argon at 80° C. for 48 hours. The mixture was cooled, then poured into water (50 cm3) and extracted with 50% diethyl ether-ethyl acetate (2×50 cm3). The organic extracts were dried (MgSO4), filtered and concentrated to give a brown oil that crystallised on standing. The material was recystallised twice from ethyl acetate-hexane to give the title compound (0.038 g; 9%) as grey granules, m.p. 228°-230° C. (from EtOAc-hexane); Found: C, 75.0; H, 6.3; N, 17.3. C25H25N5.0.25(H2O) requires C, 75.0; H, 6.4; N, 17.5%. δH (360 MHz; d6 -DMSO) 2.54-2.57 [4H, m, N(CH2)2 ], 2.71 (2H, t, J 7.0, --CH2 --), 2.88 (2H, t, J 7.0, --CH2 --), 3.50-3.57 [4H, m, N(CH2)2 ], 3.59 (2H, broad s, --CH2N), 6.94 (1H, s, 1 of ArH), 7.15-7.28 (4H, m, 4 of ArH), 7.53 (1H, t, J 7.8, 1 of ArH), 7.65 (2H, d, J 8.2, 2 of ArH), 7.85 (1H, d, J 8.1, 1 of ArH), 8.96 (1H, s, 1 of ArH), 12.56 and 12.96 (1H, 2 x broad s, NH); m/z (CI+ ; NH3) 396 (MH+ ; 8%), 214 (68), 185 (50), 132 (50), 130 (80), 87 (70) and 61 (100).

reactant | (4,5-dihydro-1H-benzo[g]indazol-3-ylmethyl)-trimethylammonium iodide | 0.40 g | [I-].N1N=C(C=2CCC3=C(C12)C=CC=C3)C[N+](C)(C)C
reactant | 4-isoquinolin-3-yl-piperazine dihydrochloride | 0.31 g | Cl.Cl.C1=NC(=CC2=CC=CC=C12)N1CCNCC1
reactant | diisopropylethylamine | 1.0 cm3 | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 50 cm3 | O | H2O
solvent | DMF | 5 cm3 | CN(C)C=O | C3H7NO
product | 3-(4-Isoquinolin-3-yl-piperazin-1-ylmethyl)-4,5-dihydro-1H-benzo[g]indazole | 0.038 g, 9% | C1=NC(=CC2=CC=CC=C12)N1CCN(CC1)CC1=NNC=2C3=C(CCC12)C=CC=C3 | C25H25N5
